vdr_parallel_network - fault test
I1 0 T DC 0.012
C1 T 0 5.78e-06
R2 T 0 12165.629475
R3 T 0 11885.022578
.op
.control
run
print v(T)
print @r2[i] @r3[i]
print @i1[i]
.endc
.end
